US08754103B2
In a heavy-wall pressure tube, a suspension of 2-hydrazinyl-5-(4-phenoxyphenyl)pyrazine (0.827 mmole) and trifluoroacetic anhydride (0.993 mmole) in toluene (10 mL) was heated at 110 C for 2 hours. The reaction mixture evaporated in vacuo and purified by preparative HPLC to give 6-(4-phenoxyphenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyrazine.

reactant | 2-hydrazinyl-5-(4-phenoxyphenyl)pyrazine | 0.827 mmole | N(N)C1=NC=C(N=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H14N4O
reactant | trifluoroacetic anhydride | 0.993 mmole | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(4-phenoxyphenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyrazine | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=1N=CC=2N(C1)C(=NN2)C(F)(F)F | C18H11F3N4O
